US08431713B2
Step C: Preparation of 4-(2-methylpyridin-3-yloxy)pyridin-2-amine:
tert-Butyl 4-(2-methylpyridin-3-yloxy)pyridin-2-ylcarbamate (5.5 g, 18.3 mmol) was diluted in dichloromethane (20 mL). Trifluoroacetic acid (20 mL) was added and the reaction was stirred for 3 hours at ambient temperature. The reaction was concentrated, and saturated sodium bicarbonate solution was added to the residue. The aqueous layer was extracted with ethyl acetate and organic layer was dried and concentrated to give the title compound (3.67 g, 99% yield) as light yellow oil.

reactant | tert-Butyl 4-(2-methylpyridin-3-yloxy)pyridin-2-ylcarbamate | 18.3 mmol, 5.5 g | CC1=NC=CC=C1OC1=CC(=NC=C1)NC(OC(C)(C)C)=O | C16H19N3O3
reactant | Trifluoroacetic acid | 20 mL | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | 20 mL | ClCCl | CH2Cl2
product | 4-(2-methylpyridin-3-yloxy)pyridin-2-amine | 3.67 g, 99% yield | CC1=NC=CC=C1OC1=CC(=NC=C1)N | C11H11N3O
